US08455521B2
A stirred solution of (2-(trimethylsilyl)ethyl) (S)-2-amino-3-cyclohexylpropyl-methylcarbamate (484 mg, 1.54 mmol) and CS2 (96 μL, 1.62 mmol) in THF (5 mL) was cooled in an ice bath and a solution of NaOH (65 mg, 1.62 mmol) in water (0.15 mL) was added. The mixture was heated at reflux for 1.5 h, cooled to 40° C. and treated with ethyl chloroformate (0.155 mL, 1.62 mmol). The mixture was heated at 40° C. for 30 min, cooled and poured into ether (90 mL). The ether layer was washed with water (25 mL), brine (25 mL) and dried over MgSO4. Removal of the solvent left an oil (660 mg). An aliquot of this oil (83 mg) and (S)-1-(3-chlorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol (42 mg, 0.13 mmol) were dissolved in MeCN (1 mL) and heated at 100° C. in a microwave for 10 min. The mixture was concentrated to leave an oil which was applied to a 2-g silica SPE cartridge and eluted sequentially with 0, 10, 25, 50, 75 and 100% EtOAc in hexanes (15 mL of each) to afford six fractions. The third fraction was evaporated to afford (3R)-N-((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carbothioamide (35 mg) as an oil.

reactant | (2-(trimethylsilyl)ethyl) (S)-2-amino-3-cyclohexylpropyl-methylcarbamate | 1.54 mmol, 484 mg | N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1CCCCC1 | C16H34N2O2Si
reactant | CS2 | 1.62 mmol, 96 μL | C(=S)=S | CS2
reactant | NaOH | 1.62 mmol, 65 mg | [OH-].[Na+]
reactant | ethyl chloroformate | 1.62 mmol, 0.155 mL | ClC(=O)OCC | C3H5ClO2
reactant | (S)-1-(3-chlorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | 0.13 mmol, 42 mg | ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CNCCC1 | C17H26ClNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 0.15 mL | O | H2O
solvent | MeCN | 1 mL | CC#N | C2H3N
solvent | ether | 90 mL | CCOCC | C4H10O
product | (3R)-N-((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carbothioamide | 35 mg | C1(CCCCC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(=S)N1C[C@@H](CCC1)[C@@](CCCCOC)(C1=CC=CC=C1)O | C34H59N3O4SSi
